US07691881B2
6(3) 5-Chloro-N-{[1-(cyclohexylmethyl)piperidin-4-yl]methyl}-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide
To a stirred solution of 5-chloro-1-isopropyl-6-methyl-2-oxo-N-(piperidin-4-ylmethyl)-1,2-dihydropyridine-3-carboxamide as prepared in 6(2) (228 mg, 0.70 mmol), cyclohexanecarboxaldehyde (94 mg, 0.84 mmol) in dichloromethane (11 mL) was added sodium triacetoxyborohydride (312 mg, 1.40 mmol) at room temperature, and the mixture was stirred at room temperature for 4 h. The mixture was quenched with saturated sodium hydrogencarbonate aqueous solution (80 mL), extracted with dichloromethane (50 mL×4). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methanol (v/v=20/1) to give 213 mg (72%) of the title compound as a white solid.

reactant | 5-chloro-1-isopropyl-6-methyl-2-oxo-N-(piperidin-4-ylmethyl)-1,2-dihydropyridine-3-carboxamide | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)NCC1CCNCC1 | C16H24ClN3O2
reactant | cyclohexanecarboxaldehyde | 0.84 mmol, 94 mg | C1(CCCCC1)C=O | C7H12O
reactant | sodium triacetoxyborohydride | 1.40 mmol, 312 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
product | 5-Chloro-N-{[1-(cyclohexylmethyl)piperidin-4-yl]methyl}-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxamide | 213 mg, 72% | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)NCC1CCN(CC1)CC1CCCCC1 | C23H36ClN3O2
